US08431575B2
To a solution of 3-{[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-3-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (55 mg) in DCM (2 mL) was added 4 N HCl in dioxane (1.0 mL) at 0° C., and the reaction was stirred for 1 h at room temperature. The volatiles were removed under reduced pressure, and the residue was triturated with anhydrous ethyl ether and dried under high vacuum to provide 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-hydroxymethyl-pyrrolidin-3-yl)-amide dihydrochloride.

reactant | 3-{[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carbonyl]-amino}-3-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 55 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(CO)NC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | C31H44N4O5
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazine-3-carboxylic acid (3-hydroxymethyl-pyrrolidin-3-yl)-amide dihydrochloride | Cl.Cl.OCC1(CNCC1)NC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC | InChI=1S/C26H36N4O3.2ClH/c1-2-3-9-23-22(19-10-12-21(13-11-19)33-20-7-5-4-6-8-20)16-24(30-29-23)25(32)28-26(18-31)14-15-27-17-26;;/h10-13,16,20,27,31H,2-9,14-15,17-18H2,1H3,(H,28,32);2*1H
